US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-[(4-methylpiperazin-1-yl)methyl]benzamide
A solution of NaHMDS (1M in THF) (2.83 mL, 2.83 mmol) was added dropwise to a stirred solution of methyl 4-((4-methylpiperazin-1-yl)methyl)benzoate (0.351 g, 1.41 mmol) and tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (0.589 g, 1.70 mmol) in THF (3 mL), over a period of 10 mins under nitrogen. DMA (3 mL) was added. The resulting solution was stirred at room temperature for 60 h. A further aliquot of NaHMDS (1.415 mL, 1.415 mmol) was added dropwise and the solution was stirred at room temperature for a further 90 mins. The reaction mixture was poured into saturated NH4Cl (25 mL), extracted with EtOAc (2×25 mL), washed with saturated brine and dried over MgSO4, filtered and evaporated to afford the crude product (0.8776 g) as an orange gum. The crude product was purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.034 g, 5.19%) as a white solid; 1H NMR (500.0 MHz, DMSO-d6) δ 2.18 (3H, s), 2.34-2.37 (2H, m), 3.54 (2H, s), 3.73 (3H, s), 6.32-6.33 (1H, t), 6.41-6.42 (2H, d), 7.38-7.39 (1H, d), 7.90-7.92 (1H, d), 10.02 (1H, s), 11.79 (1H, s)

reactant | NaHMDS | 2.83 mmol, 1M, 2.83 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl 4-((4-methylpiperazin-1-yl)methyl)benzoate | 1.41 mmol, 0.351 g | CN1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 1.70 mmol, 0.589 g | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | NaHMDS | 1.415 mmol, 1.415 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-[(4-methylpiperazin-1-yl)methyl]benzamide | 0.034 g, 5.19% | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C26H33N5O3
